US07109186B2
Compound 785: 4-{4-[(4-Fluoro-2-methanesulfonyl-benzyl)-methyl-carbamoyl]-3-hydroxy-2-oxo-2,5-dihydro-pyrrol-1-yl}-butyric acid
2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-2-methanesulfonyl-benzyl)-N-methyl-acetamide was reacted with paraformaldehyde and 4-amino-butyric acid as described in Method 44B to give the title compound as a colorless oil (0.01 g, 9% yield). 1HNMR (300 MHz, CDCl3) δ: 7.78 (1H, dd, J=8.06, 2.57 Hz), 7.43 (1H, dd, J=8.60, 4.94 Hz), 7.36–7.30 (1H, m), 5.08 (2H, s), 4.20 (2H, s), 3.58 (2H, t, J=5.85 Hz), 3.16 (6H, s), 2.42 (2H, t, J=6.22 Hz), 1.95 (2H, t, J=6.59).

reactant | 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-2-methanesulfonyl-benzyl)-N-methyl-acetamide | CC1(OC(C(O1)=CC(=O)N(C)CC1=C(C=C(C=C1)F)S(=O)(=O)C)=O)C | C16H18FNO6S
reactant | paraformaldehyde | C=O | CH2O
reactant | 4-amino-butyric acid | NCCCC(=O)O | C4H9NO2
product | 4-{4-[(4-Fluoro-2-methanesulfonyl-benzyl)-methyl-carbamoyl]-3-hydroxy-2-oxo-2,5-dihydro-pyrrol-1-yl}-butyric acid | 0.01 g, 9% yield | FC1=CC(=C(CN(C(=O)C2=C(C(N(C2)CCCC(=O)O)=O)O)C)C=C1)S(=O)(=O)C | C18H21FN2O7S
